US07872028B2
To a solution of 2-hydrazino-3-(tetrahydro-pyran-4-yl)-propan-1-ol (6.15 g, 0.035 mol) in MeOH (120 mL) was added Raney Ni. The flask was evacuated and equipped with a hydrogen inflated balloon. The flask was dipped into an ultrasound bath filled with water and sonicated for 4 h at rt until the starting material was completely consumed. The mixture was filtered through celite, and the filter cake was washed with MeOH (2×30 mL). Concentration of the filtrate under reduced pressure gave 2-amino-3-(tetrahydro-pyran-4-yl)-propan-1-ol (5.1 g, 91%). 1H NMR (CD3OD) δ 1.2-1.5 (m, 4H), 1.5-1.7 (m, 3H), 1.9-2.2 (s, 3H), 2.9-3.0 (m, 1H), 3.2-3.3 (m, 1H), 3.3-3.4 (m, 2H), 3.5-3.6 (m, 1H), 3.9-4.0 (m, 2H).

reactant | 2-hydrazino-3-(tetrahydro-pyran-4-yl)-propan-1-ol | 0.035 mol, 6.15 g | N(N)C(CO)CC1CCOCC1 | C8H18N2O2
solvent | MeOH | 120 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 2-amino-3-(tetrahydro-pyran-4-yl)-propan-1-ol | 5.1 g, 91% | NC(CO)CC1CCOCC1 | C8H17NO2
